US08067590B2
4-(4-Fluoro-benzyloxy)-1H-pyridin-2-one
To 1.40 g (7.41 mmol) 1-bromomethyl-4-fluoro-benzene in 20 mL acetonitrile is added 822 mg (7.40 mmol) 2,4-dihydroxy pyridine and 2.05 g (14.8 mmol) potassium carbonate. The reaction mixture is stirred overnight at RT. 5 mL of DMF is added and the reaction is stirred overnight. After filtration and evaporation of the solvent, is the residue purified by HPLC (Zorbax stable bond, C18; water (0.15% formic acid)/acetonitrile 95:5 to 5:95).

reactant | 1-bromomethyl-4-fluoro-benzene | 7.41 mmol, 1.40 g | BrCC1=CC=C(C=C1)F | C7H6BrF
reactant | 2,4-dihydroxy pyridine | 7.40 mmol, 822 mg | OC1=NC=CC(=C1)O | C5H5NO2
reactant | potassium carbonate | 14.8 mmol, 2.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-(4-Fluoro-benzyloxy)-1H-pyridin-2-one | FC1=CC=C(COC2=CC(NC=C2)=O)C=C1 | C12H10FNO2
